US06610707B1
(2S)-1-[(4-Fluorophenyl)sulfonyl]-2-(5-methyl-1,3-thiazol-2-yl)piperidine
The title compound was prepared by a similar method to Example 29 from (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-oxopropyl)-2-piperidinecarboxamide [see Preparation 81] and Lawesson's reagent. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 100:0 changing to 75:25, by volume, hexane:ethyl acetate, in 5% increments, to afford (2S)-1-[(4-fluorophenyl)sulfonyl]-2-(5-methyl-1,3-thiazol-2-yl)piperidine as a white solid.

reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-oxopropyl)-2-piperidinecarboxamide | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)NCC(C)=O | C15H19FN2O4S
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-(5-methyl-1,3-thiazol-2-yl)piperidine | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C=1SC(=CN1)C | C15H17FN2O2S2
